US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 351 μmol), 3-methyl-1,2,4-thiadiazol-5-amine (60.6 mg, 526 μmol), xantphos (60.9 mg, 105 μmol), Pd2(dba)3 (32.1 mg, 35.1 μmol) and cesium carbonate (229 mg, 702 μmol) in dioxane (2 mL) was heated in a microwave at 150° C. for 20 min. Purification by chromatography (silica, 30-70% ethyl acetate in hexanes) gave N-tert-butyl-2-(3-methyl-1,2,4-thiadiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (128 mg, 277 μmol, 79%) as an orange solid. (EI/CI) m/z: 462.3 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 351 μmol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 3-methyl-1,2,4-thiadiazol-5-amine | 526 μmol, 60.6 mg | CC1=NSC(=N1)N | C3H5N3S
reactant | xantphos | 105 μmol, 60.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 702 μmol, 229 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 35.1 μmol, 32.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-tert-butyl-2-(3-methyl-1,2,4-thiadiazol-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 277 μmol, 128 mg, 79% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC(=NS2)C)COCC[Si](C)(C)C | C20H31N7O2SSi
